US04496560
2-Benzhydryloxycarbonyl-3-(2-methoxycarbonylaminothiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.82 g) is treated with formic acid (20 cc) in accordance with the working method described in Example 1. 2-Carboxy-3-(2-methoxycarbonylaminothiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.9 g) is obtained in the form of a yellow solid.

reactant | 2-Benzhydryloxycarbonyl-3-(2-methoxycarbonylaminothiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.82 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC(=O)OC)NC(CC=1SC=CC1)=O)=O | C31H26N4O6S3
solvent | formic acid | 20 cc | C(=O)O | CH2O2
product | 2-Carboxy-3-(2-methoxycarbonylaminothiazol-5-yl)-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.9 g | C(=O)(O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC(=O)OC)NC(CC=1SC=CC1)=O)=O | C18H16N4O6S3
